US07781478B2
A mixture of (R)-[4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester (0.083 g, 0.2 mmol), Cs2CO3 (0.163 g, 0.5 mmol), 2-chloropyrimidine (0.046 g, 0.4 mmol) in DMF (2.0 mL) was stirred at 70° C. for 2 h. After cooling to room temperature, the mixture was poured into water (15 mL) and the precipitate was collected via filtration and washed with water, purified on silica gel (CH2Cl2/EtOAc, 9.5:0.5) to provide (R)-{4-[3-cyano-1-cyclobutyl-6-(pyrimidin-2-yloxy)-1H-indol-2-yl]-phenyl}carbamic acid 1-cyclopropyl-ethyl ester (0.073 g, 74%).

reactant | (R)-[4-(3-cyano-1-cyclobutyl-6-hydroxy-1H-indol-2-yl)-phenyl]-carbamic acid 1-cyclopropyl-ethyl ester | 0.2 mmol, 0.083 g | C1(CC1)[C@@H](C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)O)C1CCC1)=O | C25H25N3O3
reactant | Cs2CO3 | 0.5 mmol, 0.163 g | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | 2-chloropyrimidine | 0.4 mmol, 0.046 g | ClC1=NC=CC=N1 | C4H3ClN2
reactant | water | 15 mL | O | H2O
solvent | DMF | 2.0 mL | CN(C)C=O | C3H7NO
product | (R)-{4-[3-cyano-1-cyclobutyl-6-(pyrimidin-2-yloxy)-1H-indol-2-yl]-phenyl}carbamic acid 1-cyclopropyl-ethyl ester | 0.073 g, 74% | C1(CC1)[C@@H](C)OC(NC1=CC=C(C=C1)C=1N(C2=CC(=CC=C2C1C#N)OC1=NC=CC=N1)C1CCC1)=O | C29H27N5O3
